US06255276B1
87 g (0.3 mol) of methyl 5Z-6-methylpentadec-5-enoate and 19.5 g of 86 percent potassium hydroxide were dissolved in 200 ml of methanol. 66 g of 3-chloropropane-1,2-diol and 200 ml of glycerol as well as, 5 ml of 5.4M methanolic sodium methylate solution were added. After usual work up the product were distilled in a high vacuum over a Vigreux column. 59 g (78%) of 7-methyloxacyclo-hexadec-6-en-2-one were obtained having the following characteristics: Z/E=56/46;

reactant | methyl 5Z-6-methylpentadec-5-enoate | 0.3 mol, 87 g | C/C(=C/CCCC(=O)OC)/CCCCCCCCC | C17H32O2
reactant | potassium hydroxide | 19.5 g | [OH-].[K+]
reactant | 3-chloropropane-1,2-diol | 66 g | ClCC(CO)O | C3H7ClO2
reactant | sodium methylate | 5.4M, 5 ml | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | glycerol | 200 ml | OCC(O)CO | C3H8O3
product | 7-methyloxacyclo-hexadec-6-en-2-one | 59 g, 78% | CC1=CCCCC(OCCCCCCCCC1)=O | C16H28O2
